US03946008
8,9-Diethoxy-1,2,3,4-tetrahydro-3-(2-morpholinoethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one.
A mixture of 0.01 m of 1,2,3,4-tetrahydro-8,9-dihydroxy-3-(2-morpholinoethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one, 0.022 m of diethylsulfate, and 0.1 m of K2CO3 in 500 ml of acetone was refluxed for 18 hr, filtered hot and evaporated. Residue was dissolved in CHCl3 and washed with 3% NaOH soln. CHCl3 soluble material was crystallized from MeOH containing an excess of HCl gas affording 1 g of product; mp 240°-260° C.

reactant | 1,2,3,4-tetrahydro-8,9-dihydroxy-3-(2-morpholinoethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | OC1=CC2=C(C=C1O)C1=C(CN(CC1)CCN1CCOCC1)C(O2)=O | C18H22N2O5
reactant | diethylsulfate | C(C)OS(=O)(=O)OCC | C4H10O4S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 500 ml | CC(=O)C | C3H6O
product | 8,9-Diethoxy-1,2,3,4-tetrahydro-3-(2-morpholinoethyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 1 g | C(C)OC1=CC2=C(C=C1OCC)C1=C(CN(CC1)CCN1CCOCC1)C(O2)=O | C22H30N2O5
